US05260423
Preparation of 7-bromoacetylbenzo-1,2,3-thiadiazole (Compound 1.125)
0.9 g of 7-acetylbenzo-1,2,3-thiadiazole is dissolved in 20 ml of chloroform, and 0.88 g of bromine is added dropwise at room temperature. Stirring is then continued for 2 hours at the same temperature, during which process a yellow precipitate forms. This precipitate is filtered off, washed with hexane and dried. The title compound which is thus obtained melts at 155°-157° C.

reactant | 7-acetylbenzo-1,2,3-thiadiazole | 0.9 g | C(C)(=O)C1=CC=CC=2N=NSC21 | C8H6N2OS
reactant | bromine | 0.88 g | BrBr | Br2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-bromoacetylbenzo-1,2,3-thiadiazole | BrCC(=O)C1=CC=CC=2N=NSC21 | C8H5BrN2OS
